US04607041
Diethyl 4-(4-benzofurazanyl)-2-diethoxymethyl-1,4-dihydro-6-trifluoromethyl-3,5-pyridinedicarboxylate
A solution of diethyl 4-(4-benzofurazanyl)-2-diethoxymethyl-1,4,5,6-tetrahydro-6-hydroxy-6-(trifluoromethyl)-3,5-pyridinedicarboxylate (9.0 g, 17 mmoles), trifluoroacetic anhydride (4.77 ml, 34 mmoles) and pyridine (4.05 ml, 51 mmoles) in dry dichloromethane (100 ml) was stirred at room temperature. After 3 hours the solution was washed with water, 10% aqueous hydrochloric acid solution, brine and dried (MgSO4). Evaporation of the solvent left crude sub-title compound as an oil (8.8 g). Nmr (CDCl3) δ 6.1 (s,H), 5.6(s,H).

reactant | diethyl 4-(4-benzofurazanyl)-2-diethoxymethyl-1,4,5,6-tetrahydro-6-hydroxy-6-(trifluoromethyl)-3,5-pyridinedicarboxylate | 17 mmoles, 9.0 g | N1=C2C(=NO1)C(=CC=C2)C2C(=C(NC(C2C(=O)OCC)(C(F)(F)F)O)C(OCC)OCC)C(=O)OCC | C23H28F3N3O8
reactant | trifluoroacetic anhydride | 34 mmoles, 4.77 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 51 mmoles, 4.05 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Diethyl 4-(4-benzofurazanyl)-2-diethoxymethyl-1,4-dihydro-6-trifluoromethyl-3,5-pyridinedicarboxylate | N1=C2C(=NO1)C(=CC=C2)C2C(=C(NC(=C2C(=O)OCC)C(F)(F)F)C(OCC)OCC)C(=O)OCC | C23H26F3N3O7
